US08486970B2
A mixture of 730 mg of tert-butyl(3-{[({[(3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl]carbonyl}amino)oxy]methyl}phenoxy)acetate, 5 ml of dichloroethane, and 5 ml of trifluoroacetic acid was stirred at room temperature for 2 hours. The reaction solution was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (eluent: chloroform-methanol). The crude purified product thus obtained was recrystallized from ethyl acetate to obtain 184 mg of (3-{[({[(3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl]carbonyl}amino)oxy]methyl}phenoxy)acetic acid as a colorless crystal.

reactant | tert-butyl(3-{[({[(3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl]carbonyl}amino)oxy]methyl}phenoxy)acetate | 730 mg | C(C)(C)(C)OC(COC1=CC(=CC=C1)CONC(=O)C1C(N(C(C2=CC=CC=C12)=O)C1C(CCCC1)NS(=O)(=O)C)C1=C(C=C(C=C1)Cl)Cl)=O | C36H41Cl2N3O8S
reactant | dichloroethane | 5 ml | ClC(C)Cl | C2H4Cl2
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (3-{[({[(3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl]carbonyl}amino)oxy]methyl}phenoxy)acetic acid | 184 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)NOCC=1C=C(OCC(=O)O)C=CC1)=O)C1C(CCCC1)NS(=O)(=O)C | C32H33Cl2N3O8S
